US09023840B2
Step 2: Methyl 5-{3-(cyanomethyl)-3-[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazol-1-yl]azetidin-1-yl}pyrazine-2-carboxylate
A mixture of {3-[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazol-1-yl]azetidin-3-yl}acetonitrile HCl salt (400. mg, 1.23 mmol), methyl 5-chloropyrazine-2-carboxylate (223 mg, 1.29 mmol), cesium carbonate (800 mg, 2.5 mmol), palladium acetate (28 mg, 0.12 mmol) and (S)-(−)-2,2′-bis(diphenylphosphino)-1,1′-binaphthyl (150 mg, 0.25 mmol) in toluene (5 mL) was stirred at 100° C. for 3 h. After the reaction mixture was cooled to room temperature, the solid was separated, and washed with ethyl acetate twice. The filtrate was concentrated under reduced pressure. The residue was purified by flash chromatography on a silica gel column with methanol in methylene chloride (0-5%) to afford the desired product (0.28 g). LCMS (M+H)+: m/z=425.2.

reactant | {3-[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazol-1-yl]azetidin-3-yl}acetonitrile HCl salt | 1.23 mmol | Cl.CC1(OB(OC1(C)C)C=1C=NN(C1)C1(CNC1)CC#N)C
reactant | methyl 5-chloropyrazine-2-carboxylate | 1.29 mmol, 223 mg | ClC=1N=CC(=NC1)C(=O)OC | C6H5ClN2O2
reactant | cesium carbonate | 2.5 mmol, 800 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | (S)-(−)-2,2′-bis(diphenylphosphino)-1,1′-binaphthyl | 0.25 mmol, 150 mg | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=C(C4=CC=CC=C4C=C3)C5=C(C=CC6=CC=CC=C65)P(C7=CC=CC=C7)C8=CC=CC=C8 | C44H32P2
solvent | toluene | 5 mL | C1(=CC=CC=C1)C | C7H8
catalyst | palladium acetate | 0.12 mmol, 28 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | Methyl 5-{3-(cyanomethyl)-3-[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazol-1-yl]azetidin-1-yl}pyrazine-2-carboxylate | 0.28 g | C(#N)CC1(CN(C1)C=1N=CC(=NC1)C(=O)OC)N1N=CC(=C1)B1OC(C(O1)(C)C)(C)C | C20H25BN6O4
